.SUBCKT sg13g2_a22oi_4 Y A1 A2 B1 B2 VDD VSS
*.PININFO A1:I A2:I B1:I B2:I Y:O VDD:B VSS:B
MN0 net1 B2 VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MN1 Y B1 net1 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MN2 net2 A2 VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MN3 Y A1 net2 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MP0 Y B1 net3 VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
MP1 Y B2 net3 VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
MP2 net3 A2 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
MP3 net3 A1 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
.ENDS
